US05604229
2-Acetamido-1,3-diacetoxy-2-[4-(4-butylphenyl)butyl]propane (66.2 mg) was dissolved in 2 ml of methanol and 2 ml of a 1N aqueous sodium hydroxide solution was added thereto. The mixture was refluxed under heating for 4 hours. The solvent was distilled away and the residue was purified by silica gel thin layer chromatography (methanol:chloroform=1:4) to give 24.9 mg of 2-amino-2-[4-(4-butylphenyl)butyl]-1,3-propanediol as white crystals.

reactant | 2-Acetamido-1,3-diacetoxy-2-[4-(4-butylphenyl)butyl]propane | 66.2 mg | C(C)(=O)NC(COC(C)=O)(COC(C)=O)CCCCC1=CC=C(C=C1)CCCC | C23H35NO5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 2-amino-2-[4-(4-butylphenyl)butyl]-1,3-propanediol | 24.9 mg | NC(CO)(CO)CCCCC1=CC=C(C=C1)CCCC | C17H29NO2
